US05646283
Methyl 4-[3-(1-adamantyl)benzoyl]butyrate (compound ooo):
5.0 g (26.0 mmol) of 4-benzoylbutyric acid was dissolved in 100 ml of 1,2-dichloroethane, and 8.70 g (65.03 mmol) of aluminum trichloride and 5.30 (31.21 mmol) of 1-chloroadamantane were added thereto, followed by stirring the mixture at 60° C. for 6 hours. The reaction mixture was poured into hydrochloric acid, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. To the residue were added 100 ml of methanol and 5 ml of conc. sulfuric acid, and the mixture was stirred at room temperature overnight. The solvent was distilled off under reduced pressure, and the residue was poured into water, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by silica-gel column chromatography (eluent: a mixture of 1% ethyl acetate and hexane) to obtain 2.13 g of the above-mentioned compound (yield 24%).

reactant | 4-benzoylbutyric acid | 26.0 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)CCCC(=O)O | C11H12O3
reactant | aluminum trichloride | 65.03 mmol, 8.70 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 1-chloroadamantane | ClC12CC3CC(CC(C1)C3)C2 | C10H15Cl
reactant | hydrochloric acid | Cl | ClH
reactant | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | Methyl 4-[3-(1-adamantyl)benzoyl]butyrate | 2.13 g, yield 24% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)CCCC(=O)OC)C=CC2 | C22H28O3
